US05760032
Ethyl (3-(2-chlorobenzoyl)-2-(3-(2-indolecarbonylaminomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)carboxylate (0.16 g) was hydrolyzed using a 2M aqueous sodium hydroxide solution (0.22 ml) and methanol (1 ml) to give 0.053 g of (3-(2-chlorobenzoyl)-2-(3-(2-indolecarbonylaminomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)carboxylic acid.

reactant | Ethyl (3-(2-chlorobenzoyl)-2-(3-(2-indolecarbonylaminomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)carboxylate | 0.16 g | ClC1=C(C(=O)C2=C(SC(=C2)C(=O)OCC)N2C(=NN=C2C)CNC(=O)C=2NC3=CC=CC=C3C2)C=CC=C1 | C27H22ClN5O4S
reactant | sodium hydroxide | 2M, 0.22 ml | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | (3-(2-chlorobenzoyl)-2-(3-(2-indolecarbonylaminomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)carboxylic acid | 0.053 g | ClC1=C(C(=O)C2=C(SC(=C2)C(=O)O)N2C(=NN=C2C)CNC(=O)C=2NC3=CC=CC=C3C2)C=CC=C1 | C25H18ClN5O4S
